US06967208B2
To methyl (2-fluoro-4-iodophenyl)acetate (1.0 g, 3.4 mmol) in dimethylsulfoxide (68 mL) was added potassium carbonate (1.9 g, 14 mmol) and 2-hydroxypyridine (650 mg, 6.8 mmol). The resulting mixture was degassed (alternate vacuum/nitrogen three times), and copper(I) iodide (650 mg, 3.4 mmol) was added in one portion. The light green mixture was again degassed (vac/N2) and warmed to 125° C. After 14 h, the brown-black mixture was cooled and poured into saturated aqueous ammonium hydroxide (50 mL) and ethyl acetate (100 mL). The layers were separated, and the organic layers were washed with water (2×50 mL) and saturated aqueous sodium chloride. The organic layers were concentrated, and the resulting residue was purified by radial chromatography (20-100% ethyl acetate in hexanes) to afford methyl [2-fluoro-4-(2-oxo-1(2H)-pyridinyl)-phenyl]acetate (340 mg, 39%) as a green-brown solid. LC/MS (ESI+): 262.2 (M+H)+. 1H NMR (CDCl3) δ 7.22-7.36 (m, 3H), 7.08 (t, 2H), 6.54 (d, 1H), 6.18 (t, 1H), 3.63 (s, 5H).

reactant | methyl (2-fluoro-4-iodophenyl)acetate | 3.4 mmol, 1.0 g | FC1=C(C=CC(=C1)I)CC(=O)OC | C9H8FIO2
reactant | potassium carbonate | 14 mmol, 1.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-hydroxypyridine | 6.8 mmol, 650 mg | OC1=NC=CC=C1 | C5H5NO
solvent | dimethylsulfoxide | 68 mL | CS(=O)C | C2H6OS
catalyst | copper(I) iodide | 3.4 mmol, 650 mg | [Cu]I
product | methyl [2-fluoro-4-(2-oxo-1(2H)-pyridinyl)-phenyl]acetate | 340 mg, 39% | FC1=C(C=CC(=C1)N1C(C=CC=C1)=O)CC(=O)OC | C14H12FNO3
